US08957074B2
Following general reductive alkylation method 1, 7-Cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (65 mg, 0.133 mmol) was combined with acetone (0.05 mL, 0.665 mmol) which gave 7-cyclopentyl-2-[5-((1S,6R)-9-isopropyl-4-oxo-3,9-diaza-bicyclo[4.2.1]non-3-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (61 mg) in 86% yield. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.67 (s, 1H), 8.44 (d, J=8.59 Hz, 1H), 8.12 (s, 1H), 8.08 (d, J=2.53 Hz, 1H), 7.46 (dd, J=8.59, 2.53 Hz, 1H), 6.38 (s, 1H), 4.73 (t, J=9.09 Hz, 1H), 4.24 (d, J=14.65 Hz, 1H), 3.59 (m, 2H), 3.21 (br. s., 1H), 3.08 (m, 7H), 2.97 (br. s., 1H), 2.53 (m, 3H), 1.95 (m, 6H), 1.66 (m, 3H), 1.07 (t, J=5.81 Hz, 6H).

reactant | 7-Cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.133 mmol, 65 mg | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C[C@@H]1CC[C@H](CC2=O)N1)C(=O)N(C)C | C26H32N8O2
reactant | acetone | 0.665 mmol, 0.05 mL | CC(=O)C | C3H6O
product | 7-cyclopentyl-2-[5-((1S,6R)-9-isopropyl-4-oxo-3,9-diaza-bicyclo[4.2.1]non-3-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 61 mg, 86% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2C[C@@H]3CC[C@H](CC2=O)N3C(C)C)N1C1CCCC1)C | C29H38N8O2
